US09428510B2
4.16 g (2 eq) of lithium hydroxide monohydrate is added at room temperature to a solution of 11.8 g (49.5 mmol) of ethyl 5-cyano-2-hydroxy-6-(methylthio)nicotinate in 100 ml of ethanol and 100 ml of water. The reaction mixture is stirred at 60° C. for 2 hours. The ethanol is evaporated and 1 N aqueous soda is added. The aqueous phase is washed with ethyl acetate and then re-acidified by adding 1 N aqueous hydrogen chloride (pH=1). The precipitate formed is filtered, rinsed with water and with diethyl ether and then dried under vacuum to yield 9.9 g (95%) of 5-cyano-2-hydroxy-6-(methylthio)nicotinic acid in the form of a brown powder.

reactant | lithium hydroxide monohydrate | 4.16 g, 2 eq | O.[OH-].[Li+]
reactant | ethyl 5-cyano-2-hydroxy-6-(methylthio)nicotinate | 49.5 mmol, 11.8 g | C(#N)C=1C(=NC(=C(C(=O)OCC)C1)O)SC | C10H10N2O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 5-cyano-2-hydroxy-6-(methylthio)nicotinic acid | 9.9 g, 95% | C(#N)C=1C(=NC(=C(C(=O)O)C1)O)SC | C8H6N2O3S
